US08133886B2
Step 25.3: 4-(1-Methyl-piperidin-4-ylmethyl)-3-trifluoromethyl-phenylamine
A solution of 2.2 g (8.15 mMol) 4-(1-methyl-piperidin-4-ylidenemethyl)-3-trifluoromethyl-phenylamine in 50 ml EtOH is hydrogenated in the presence of PVC for 32 h at ambient temperature. The catalyst is then removed by filtration over hyflo and the solvent is evaporated off under reduced pressure to give the crude product which is purified by column chromatography (SiO2; CH2Cl2/EtOH/NH3 95:4.5:0.5) to afford the title compound as a beige solid.

reactant | 4-(1-methyl-piperidin-4-ylidenemethyl)-3-trifluoromethyl-phenylamine | 8.15 mMol, 2.2 g | CN1CCC(CC1)=CC1=C(C=C(C=C1)N)C(F)(F)F | C14H17F3N2
solvent | EtOH | 50 ml | CCO | C2H6O
product | 4-(1-Methyl-piperidin-4-ylmethyl)-3-trifluoromethyl-phenylamine | CN1CCC(CC1)CC1=C(C=C(C=C1)N)C(F)(F)F | C14H19F3N2
